US04138415
1,4,5-Tris{[2-(2-hydroxyethylamino)ethyl]amino}-8-hydroxyanthraquinone
The reaction between 2-(2-hydroxyethylamino)ethylamine and leuco-1,4,5,8-tetrahydroxyanthraquinone is carried out as in Example 1 to give the title compound.

reactant | 2-(2-hydroxyethylamino)ethylamine | OCCNCCN | C4H12N2O
reactant | leuco-1,4,5,8-tetrahydroxyanthraquinone | C1CC(=O)C2=C(C3=C(C=CC(=C3C(=C2C1=O)O)O)O)O | C14H10O6
product | 1,4,5-Tris{[2-(2-hydroxyethylamino)ethyl]amino}-8-hydroxyanthraquinone | OCCNCCNC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)NCCNCCO)=O)NCCNCCO | C26H38N6O6
